US05969140
1-(2-Hydrazino-4-pyridyl)-3-hydroxymethyl-6,7-diethoxynaphthalene (177 mg), 1-carboxy-2-(4-chlorophenylcarbonyl)benzene (137 mg) and ethylene glycol (1 ml) are treated in the same manner as in Example 104-(3) to give 1-[2-{4-(4-chlorophenyl)-1(2H)-phthalazinon-2-yl}-4-pyridyl]-3-hydroxymethyl-6,7-diethoxynaphthalene (247 mg), which is listed in Table 14.

reactant | 1-(2-Hydrazino-4-pyridyl)-3-hydroxymethyl-6,7-diethoxynaphthalene | 177 mg | N(N)C1=NC=CC(=C1)C1=CC(=CC2=CC(=C(C=C12)OCC)OCC)CO | C20H23N3O3
reactant | 1-carboxy-2-(4-chlorophenylcarbonyl)benzene | 137 mg | C(=O)(O)C1=C(C=CC=C1)C(=O)C1=CC=C(C=C1)Cl | C14H9ClO3
solvent | ethylene glycol | 1 ml | C(CO)O | C2H6O2
product | 1-[2-{4-(4-chlorophenyl)-1(2H)-phthalazinon-2-yl}-4-pyridyl]-3-hydroxymethyl-6,7-diethoxynaphthalene | 247 mg | ClC1=CC=C(C=C1)C1=NN(C(C2=CC=CC=C12)=O)C1=NC=CC(=C1)C1=CC(=CC2=CC(=C(C=C12)OCC)OCC)CO | C34H28ClN3O4
